US05945425
Methyl 2-amino-3-[(1H-benzimidazol-2-yl) thiomethyl]benzoate
The title compound was prepared by the method of Example 1 using 1.27 g of methyl 2-amino-3-(chloromethyl)benzoate hydrochloride (prepared from methyl 2-amino-3-(methylsulfinylmethyl)benzoate as reported by J. P. Chupp et al., J. Org. Chem., 49, 4711 (1984) instead of 2-(chloromethyl)-N,N-dimethylaniline in isopropyl alcohol. Recrystallization of the title compound from diethyl ether gave 1.72 g of the title compound in three crops. Anal. Calc'd. for C16H15N3O2S: C, 61.32; H, 4.82; N,13.41; S, 10.23. Found: C, 60.73; H, 4.86; N, 12.87; S, 9.67.

reactant | methyl 2-amino-3-(chloromethyl)benzoate hydrochloride | 1.27 g | Cl.NC1=C(C(=O)OC)C=CC=C1CCl
reactant | methyl 2-amino-3-(methylsulfinylmethyl)benzoate | NC1=C(C(=O)OC)C=CC=C1CS(=O)C | C10H13NO3S
reactant | 2-(chloromethyl)-N,N-dimethylaniline | ClCC1=C(N(C)C)C=CC=C1 | C9H12ClN
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | Methyl 2-amino-3-[(1H-benzimidazol-2-yl) thiomethyl]benzoate | 1.72 g | NC1=C(C(=O)OC)C=CC=C1CSC1=NC2=C(N1)C=CC=C2 | C16H15N3O2S
